US05714438
To a solution of 63 mg of (4-ethylpyrimidin-5-yl)-4-methylpyrimidin-5-yl ketone in 1 ml EtOH chilled in an ice bath was added 7.4 mg of sodium borohydride. After stirring the solution for 30 minutes, 1 ml of EtOAc was added followed by 1 ml NaH2PO4 (pH=3.0). The mixture was stirred vigorously and the aqueous extracted with EtOAc (3 times). The organic layers were combined, dried (MgSO4) and filtered through silica gel with EtOAc. The solvent was evaporated to yield 52 mg of pure 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)methanol.

reactant | (4-ethylpyrimidin-5-yl)-4-methylpyrimidin-5-yl ketone | 63 mg | C(C)C1=NC=NC=C1C1=NC=C(C(=N1)C)C(=O)C=1C(=NC(=NC1)C=1C(=NC=NC1)CC)C | C23H22N8O
reactant | sodium borohydride | 7.4 mg | [BH4-].[Na+]
reactant | EtOAc | 1 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 1 ml | CCO | C2H6O
product | 1-(4-ethylpyrimidin-5-yl)-1-(4-methylpyrimidin-5-yl)methanol | 52 mg | C(C)C1=NC=NC=C1C(O)C=1C(=NC=NC1)C | C12H14N4O
